US08067447B2
Trimethylphosphonoacetate (2.4 g, 13.4 mmol) was dissolved in 15 mL anhydrous DMF and treated with sodium hexadimethylsilazane (13.4 mmol, 1 M in THF). (1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methanone (1.63 g, 5.16 mmol) was added and the reaction was heated to 85° C. for 16 hours. The following day, the cooled reaction was extracted from brine using ether×3 and the combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel using 25% EtOAc in hexanes to give 1.74 g (91%) of (E)-methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylacrylate as a clear oil. MS found: (M+H)+=373.

reactant | Trimethylphosphonoacetate | 13.4 mmol, 2.4 g | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | sodium | [Na] | Na
reactant | (1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methanone | 5.16 mmol, 1.63 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(=O)C1=CC=CC=C1 | C20H13FN2O
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | (E)-methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylacrylate | 1.74 g, 91% | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)/C(=C/C(=O)OC)/C1=CC=CC=C1 | C23H17FN2O2
